US09034866B2
Into a 5000-mL 4-necked round-bottom flask was placed a solution of 9-bromo-10-fluoro-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene-4-carboxylic acid (280 g, 830.51 mmol, 1.00 equiv) in N,N-dimethylformamide (2500 mL), HBTU (315 g, 830.61 mmol, 1.00 equiv), and DIEA (139 g, 1.08 mol, 1.30 equiv). The resulting solution was stirred at room temperature for 1.5 h. This was followed by the addition of amine hydrate (300 mL). The resulting solution was stirred at room temperature for 0.5 h and diluted with 2000 mL of H2O. The solids were collected by filtration, washed with 3×1000 mL of water and dried to afford 150.6 g (54%) of 9-bromo-10-fluoro-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene-4-carboxamide as a white solid. LC-MS: [M+H]+336 1H-NMR (DMSO, 300 MHz, ppm) □ 1.66-1.70 (2H, m), 3.08-3.12 (2H, m), 3.70-3.71 (1H, m), 4.88-4.94 (1H, m), 7.14 (1H, s), 7.36-7.39 (1H, m), 7.60 (1H, s), 7.83 (1H, s), 8.84-8.86 (1H, m).

reactant | 9-bromo-10-fluoro-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene-4-carboxylic acid | 830.51 mmol, 280 g, 1.00 equiv | BrC=1C=C2C3=NC(=CN3C3CC(C2=CC1F)C3)C(=O)O | C14H10BrFN2O2
reactant | HBTU | 830.61 mmol, 315 g, 1.00 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.08 mol, 139 g, 1.30 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | amine hydrate | 300 mL | N.O
solvent | N,N-dimethylformamide | 2500 mL | CN(C=O)C | C3H7NO
solvent | H2O | 2000 mL | O | H2O
product | 9-bromo-10-fluoro-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene-4-carboxamide | 150.6 g, 54% | BrC=1C=C2C3=NC(=CN3C3CC(C2=CC1F)C3)C(=O)N | C14H11BrFN3O
